US04075233
125 g. of sodium metal were added in small portions to a stirred solution of 21 g. of 3β-hydroxy-17-iodo androsta-5,16-diene in 1.05 l. of anhydrous ethanol. During the addition the mixture was kept at reflux temperature. After all of the sodium was dissolved the reaction mixture was cooled and water was added. The ethanol was removed by distillation under reduced pressure and the resulting aqueous suspension was extracted with methyl isobutyl ketone. The extract was washed until neutral and concentrated to dryness in vacuo. The crystalline residue was recrystallized from methanol-water and 13 g. of 3β-hydroxy-androsta-5,16-diene were obtained. Two crystallizations from acetone yielded the pure compound melting at 137°-138° C. mol. peak in mass spectrum (m/e): 272.

reactant | sodium | [Na] | Na
reactant | 3β-hydroxy-17-iodo androsta-5,16-diene | O[C@@H]1CC2=CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)I | C19H27IO
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3β-hydroxy-androsta-5,16-diene | O[C@@H]1CC2=CC[C@H]3[C@@H]4CC=C[C@@]4(C)CC[C@@H]3[C@]2(CC1)C | C19H28O
